US08106070B2
Dess-Martin periodinane (1.08 g, 2.56 mmol) was added to an ambient temperature solution of tert-butyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate (674 mg, 1.28 mmol) in dichloromethane (13 mL). After stirring at ambient temperature for 1 h, the reaction mixture was quenched with saturated aqueous sodium bicarbonate/saturated aqueous sodium thiosulfate (1:1) and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate.

reactant | Dess-Martin periodinane | 2.56 mmol, 1.08 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate | 1.28 mmol, 674 mg | FC=1C=CC(=NC1)C1=CC=C(CC2(N(CCC2)C(=O)OC(C)(C)C)C(=O)NCC(CC(CC)(C)C)O)C=C1 | C30H42FN3O4
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate | CC(CC(CNC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C30H40FN3O4
